Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / sulfur dioxide
 
Attending: ___.
 
Chief Complaint:
Lung mass
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w heavy cigarrette use and hx of histoplasmosis presenting 
for evaluation of new lung mass diagnosed on CT last ___. 
Patient informed yesterday by PCP to come into ER for admission 
to medicine. 

On ___, she presented to her PCP with DOE over the past 3 
months. She is a former heavy smoker who stopped smoking 
cigarettes about two months ago and started smoking an E 
cigarette quite heavily. She developed a cough, wheeze, and 
worsened DOE, all of which significantly improved after she cut 
back on her e cigarettes to ___ per day. She has noted SOB with 
1 flight of stairs or with walking in the mall. Her initial Po2 
sat at her PCP's office was 89. Repeat after rest was 98 but 
then she desaturated down with a short walk and 1 flight os 
stairs to 87. CXR revealed hilar LAD complicating her chronic 
lung disease. She was started on a ___ for COPD exacerbation.

On ___, she had a CT Chest w/o contrast which showed 
extensive emphysematous changes and a 6cm R perihilar mass.

Denies f/c, cp, sore throat, abd pain, n/v/d, dysuria. She does 
endorse a dry cough over the last ___ months.

In the ED, initial vitals: 97.3 123 150/87 16 98% RA  
Labs were significant for WBC 13.1 w/ 87% PMNs, Cr 1.2 (baseline 
___ over the last year), normal lactate and coags, UA 
contaminated w/ 14 epis.  
Vitals prior to transfer: 97.3 103 107/68 18 94% RA   
Currently, she denies any symptoms, just anxious about the 
biopsy. 
 
ROS:  No fevers, chills, night sweats, or weight changes. No 
changes in vision or hearing, no changes in balance. No chest 
pain or palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  
 
Past Medical History:
HTN - per patient, off all antihypertensives since ___
CKD stage III per PCP note - patient denies, says it was a one 
time high Cr reading
Tobacco use > 50 pack year
Histoplasmosis - in ___ developed cough and loss of vision in 
the R eye that was diagnosed as histoplasmosis. Had just moved 
to ___ from ___. 

 
Social History:
___
Family History:
Mother with breast cancer in her ___. No other cancers.
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
VS: 98.1  130/75  105  18  95%RA 
GEN: Alert and oriented, lying in bed, no acute distress  
HEENT: MMM
NECK: Supple without LAD 
LYMPH: No axillary or inguinal lymphadenopathy 
PULM: Good air movement, mild ___ wheezes throughout, 
fine crackles at L base, no egophany, no dullness to percussion  

COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, ___  
EXTREM: Warm, ___, trace pitting edema to bilateral 
shins  
NEURO: CN ___ grossly intact, motor function grossly normal

DISCHARGE PHYSICAL EXAM:
==========================
VS: 98.6  ___  ___  18  95%RA 
GEN: Alert and oriented, lying in bed, no acute distress  
HEENT: MMM
NECK: Supple without LAD 
LYMPH: No axillary or inguinal lymphadenopathy 
PULM: Good air movement, mild ___ wheezes throughout, 
fine crackles at L base, no egophany, no dullness to percussion  

COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, ___  
EXTREM: Warm, ___, trace pitting edema to bilateral 
shins  
NEURO: CN ___ grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:
=================
___ 12:15PM BLOOD ___ 
___ Plt ___
___ 12:15PM BLOOD ___ ___
___ 12:15PM BLOOD ___ 
___
___ 12:46PM BLOOD ___

DISCHARGE LABS:
=================
___ 06:28AM BLOOD ___ 
___ Plt ___
___ 06:28AM BLOOD ___ 
___
___ 06:28AM BLOOD ___

STUDIES:
=================
___ CXR PA/L: IMPRESSION:   
Known large right hilar mass. 
Increased interstitial markings bilaterally with a peripheral 
predominance 
suggest chronic interstitial lung disease, however, given lack 
of priors for comparison, an acute component is not excluded. 

 
Brief Hospital Course:
___ w/ heavy cigarrette use and hx of histoplasmosis presenting 
for evaluation of new lung mass diagnosed on CT last ___. 

# R perihilar mass: Patient informed by PCP to come into ER for 
admission to medicine for expedited workup. Most consistent with 
primary lung neoplasm per radiology read. Denies fevers, night 
sweats, weight loss. No TB risk factors. Lung cancer risk 
factors of heavy tobacco use and resulting extensive emphysema. 
Chronic scarring from prior histoplasmosis is a possibility 
given the lack of prior imaging for comparision. She was seen by 
the interventional pulmonology service who will schedule 
bronchoscopic biopsy as an outpatient.
 
# COPD: Denies ever having formal PFTs, but extensive emphysema 
and blebs on CT chest. Reported ambulatory desat to 87% in PCP's 
office. She was also noted to have an ambulatory 02 sat of 86% 
in the hospital, with resting saturations of ___ on room air. 
Albuterol, advair, and Spiriva inhalers were started. She 
declined home supplemental O2 for now after discussion of the 
risks and benefits including the increased risk of mortality 
without supplemental oxygen. She will ___ with Atrius 
pulmonology in 5 days on ___.
   
TRANSITIONAL ISSUES:
======================
-Started albuterol, advair, and Spiriva inhalers.
-Follow up with interventional pulmonology for bronchoscopic 
biopsy, currently being scheduled.
-___ with Atrius pulmonology on ___. Recommend formal 
PFTs.
# CODE STATUS: Full  
# CONTACT: ___ (husband) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. ___ Diskus (250/50)  1 INH IH BID 
RX ___ [Advair Diskus] 250 ___ mcg/Dose 1 
puff IH twice a day Disp #*1 Disk Refills:*0
2. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap IH 
daily Disp #*30 Capsule Refills:*0
3. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob/wheeze 
RX *albuterol sulfate [Proventil HFA] 90 mcg ___ puffs IH up to 
every six hours as needed for Disp #*1 Inhaler Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
R perihilar mass
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital on the advice of your primary care 
doctor for an expedited ___ of your lung mass. You were seen 
by our interventional pulmonology service, who plan to bring you 
back as an outpatient for bronchoscopic biopsy. They will 
contact you to schedule the procedure. 

Review of your CT scan showed extensive emphysema and your 
oxygen level dropped when you walked around the floor. 
Therefore, we are starting you on three inhalers in order to 
optimize your breathing. The Advair and Spiriva should be taken 
everyday, regardless of whether or not you have any wheezing or 
shortness of breath. The albuterol inhaler should be used if you 
have symptoms. We also recommended home oxygen therapy, but you 
decided to hold off on that therapy option for now. 

It was a pleasure taking part in your care.

Sincerely,

Your ___ Team
 
Followup Instructions:
___